### PR TITLE
[Merged by Bors] - refactor(CategoryTheory/CoproductDisjoint): generalize to indexed coproducts

### PR DESCRIPTION
**Pull request by chrisflav**
We replace the currently existing `CoproductDisjoint` by a predicate for a family of objects, indicating that the pairwise
pullbacks are disjoint and the coproduct inclusions are monomorphisms.

The old predicate is recovered as `BinaryCoproductDisjoint` as an `abbrev`.

We also replace `CoproductsDisjoint` by `CoproductsOfShapeDisjoint` and `BinaryCoproductsDisjoint`. We postpone
the TODO to show that if binary coproducts are disjoint and suitable coproducts exist, then all coproducts of suitable shape are disjoint.

Note that `CoproductDisjoint` changed its meaning, so no deprecation can be added. This should be fine, since it is a leaf file that is hopefully not much used downstream.

Zulip discussion: https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/.60MonoCoprod.60.20and.20.60DisjointCoproduct.60/with/524752624

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Limits/Shapes/DisjointCoproduct.lean [hunk 1]
```diff
@@ -22,116 +23,224 @@ Shows that a category with disjoint coproducts is `InitialMonoClass`.
...
+/-- If `i ≠ j`, the pullback `Xᵢ ×[Z] Xⱼ` is initial, if `Z` is the coproduct of the `Xᵢ`. -/
+noncomputable def IsInitial.ofCoproductDisjointOfIsColimit {i j : ι} (hij : i ≠ j)
+    {Z : C} {f : ∀ i, X i ⟶ Z} [HasPullback (f i) (f j)]
+    (hc : IsColimit (Cofan.mk _ f)) :
+    IsInitial (pullback (f i) (f j)) :=
+  ofCoproductDisjointOfIsColimitOfIsLimit hij hc (pullback.isLimit (f i) (f j))
+
+/-- If `i ≠ j` and `Xᵢ ← Y → Xⱼ` is a pullback diagram over `∐ X`, `Y` is initial. -/
+noncomputable def IsInitial.ofCoproductDisjointOfIsLimit {i j : ι} (hij : i ≠ j)
+    [HasCoproduct X] (s : PullbackCone (Sigma.ι X i) (Sigma.ι X j))
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Limits/Shapes/DisjointCoproduct.lean]:
```suggestion
    [HasCoproduct X] {s : PullbackCone (Sigma.ι X i) (Sigma.ι X j)}
```

File: Mathlib/CategoryTheory/Limits/Shapes/DisjointCoproduct.lean [hunk 2]
```diff
@@ -22,116 +23,224 @@ Shows that a category with disjoint coproducts is `InitialMonoClass`.
...
+disjoint. -/
+abbrev BinaryCoproductDisjoint (X Y : C) :=
+  CoproductDisjoint (fun j : WalkingPair ↦ (j.casesOn X Y : C))
+
+section
+
+variable {X Y : C}
+
+lemma BinaryCoproductDisjoint.of_binaryCofan {c : BinaryCofan X Y} (hc : IsColimit c)
+    [Mono c.inl] [Mono c.inr] (s : PullbackCone c.inl c.inr)
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Limits/Shapes/DisjointCoproduct.lean]:
```suggestion
    [Mono c.inl] [Mono c.inr] {s : PullbackCone c.inl c.inr}
```

File: Mathlib/CategoryTheory/Limits/Shapes/DisjointCoproduct.lean [hunk 3]
```diff
@@ -22,116 +23,224 @@ Shows that a category with disjoint coproducts is `InitialMonoClass`.
...
-  CoproductDisjoint : ∀ X Y : C, CoproductDisjoint X Y
+attribute [instance 999] CoproductsOfShapeDisjoint.coproductDisjoint
 
-attribute [instance 999] CoproductsDisjoint.CoproductDisjoint
+lemma BinaryCoproductsDisjoint.mk (H : ∀ (X Y : C), BinaryCoproductDisjoint X Y) :
+    BinaryCoproductsDisjoint C where
+  coproductDisjoint X := by
+    convert H (X .left) (X .right) using 1
+    ext x
+    cases x <;> simp
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Limits/Shapes/DisjointCoproduct.lean]:
```suggestion
    convert H (X .left) (X .right) using 2
    casesm WalkingPair <;> simp
```

micro golf, feel free to ignore.

**Review by robin-carlier — APPROVED** [review]
Very small suggestions about some implicitness of parameters, but overall looks good!

**Comment by chrisflav** [comment]
Thanks for the suggestions @robin-carlier!

File: Mathlib/CategoryTheory/Limits/Shapes/DisjointCoproduct.lean [hunk 4]
```diff
@@ -22,116 +23,223 @@ Shows that a category with disjoint coproducts is `InitialMonoClass`.
...
-/-- If the coproduct of `X₁` and `X₂` is disjoint, then given any pullback square
-
-```
-Z  ⟶    X₁
-↓       ↓
-X₂ ⟶ X₁ ⨿ X₂
-```
-
+X₂ ⟶ ∐ X
+```,
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Limits/Shapes/DisjointCoproduct.lean]:
````suggestion
```
````
I don’t think commas right after a code block render well.

File: Mathlib/CategoryTheory/Limits/Shapes/DisjointCoproduct.lean [hunk 5]
```diff
@@ -22,116 +23,223 @@ Shows that a category with disjoint coproducts is `InitialMonoClass`.
...
+    {Z : C} {f : ∀ i, X i ⟶ Z} [HasPullback (f i) (f j)]
+    (hc : IsColimit (Cofan.mk _ f)) :
+    IsInitial (pullback (f i) (f j)) :=
+  ofCoproductDisjointOfIsColimitOfIsLimit hij hc (pullback.isLimit (f i) (f j))
+
+/-- If `i ≠ j` and `Xᵢ ← Y → Xⱼ` is a pullback diagram over `∐ X`, `Y` is initial. -/
+noncomputable def IsInitial.ofCoproductDisjointOfIsLimit {i j : ι} (hij : i ≠ j)
+    [HasCoproduct X] {s : PullbackCone (Sigma.ι X i) (Sigma.ι X j)}
+    (hs : IsLimit s) : IsInitial s.pt :=
+  ofCoproductDisjointOfIsColimitOfIsLimit hij (colimit.isColimit _) hs
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Limits/Shapes/DisjointCoproduct.lean]: These 4 defs are in the same namespace, maybe they can be wrapped in a 
```lean4
namespace IsInitial
``` 
? They also have the same 2 arguments so maybe 
```lean4
variable {i j : ι} (hij : i ≠ j)
```
can reduce a bit of verbosity, though I'd understand if you'd prefer to not "hide" arguments of a `def` (in this case, the `variable` directive would be close enough so it’s perhaps not a problem).

It would look like this:
```suggestion
namespace IsInitial
variable {i j : ι} (hij : i ≠ j)

/-- If `i ≠ j` and `Xᵢ ← Y → Xⱼ` is a pullback diagram over `Z`, where `Z` is the
coproduct of the `Xᵢ`, then `Y` is initial. -/
noncomputable def ofCoproductDisjointOfIsColimitOfIsLimit {c : Cofan X} (hc : IsColimit c)
    {s : PullbackCone (c.inj i) (c.inj j)} (hs : IsLimit s) :
    IsInitial s.pt :=
  (CoproductDisjoint.nonempty_isInitial_of_ne hc hij _ hs).some

/-- If `i ≠ j`, the pullback `Xᵢ ×[∐ X] Xⱼ` is initial. -/
noncomputable def ofCoproductDisjoint [HasCoproduct X] [HasPullback (Sigma.ι X i) (Sigma.ι X j)] :
    IsInitial (pullback (Sigma.ι X i) (Sigma.ι X j)) :=
  ofCoproductDisjointOfIsColimitOfIsLimit hij (colimit.isColimit _)
    (pullback.isLimit (Sigma.ι X i) (Sigma.ι X j))

/-- If `i ≠ j`, the pullback `Xᵢ ×[Z] Xⱼ` is initial, if `Z` is the coproduct of the `Xᵢ`. -/
noncomputable def ofCoproductDisjointOfIsColimit
    {Z : C} {f : ∀ i, X i ⟶ Z} [HasPullback (f i) (f j)] (hc : IsColimit (Cofan.mk _ f)) :
    IsInitial (pullback (f i) (f j)) :=
  ofCoproductDisjointOfIsColimitOfIsLimit hij hc (pullback.isLimit (f i) (f j))

/-- If `i ≠ j` and `Xᵢ ← Y → Xⱼ` is a pullback diagram over `∐ X`, `Y` is initial. -/
noncomputable def ofCoproductDisjointOfIsLimit
    [HasCoproduct X] {s : PullbackCone (Sigma.ι X i) (Sigma.ι X j)} (hs : IsLimit s) : 
    IsInitial s.pt :=
  ofCoproductDisjointOfIsColimitOfIsLimit hij (colimit.isColimit _) hs

end IsInitial
```

This also happens below line 169.

File: Mathlib/CategoryTheory/Limits/Shapes/DisjointCoproduct.lean [hunk 6]
```diff
@@ -22,116 +23,223 @@ Shows that a category with disjoint coproducts is `InitialMonoClass`.
...
+coproduct of `X` and `Y`, then `Z` is initial. -/
+noncomputable def IsInitial.ofBinaryCoproductDisjointOfIsColimitOfIsLimit
+    {c : BinaryCofan X Y} (hc : IsColimit c)
+    {s : PullbackCone c.inl c.inr} (hs : IsLimit s) :
+    IsInitial s.pt :=
+  (CoproductDisjoint.nonempty_isInitial_of_ne hc (by simp) _ hs).some
+
+/-- `X ×[X ⨿ Y] Y` is initial. -/
+noncomputable
+def IsInitial.ofBinaryCoproductDisjoint [HasBinaryCoproduct X Y]
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Limits/Shapes/DisjointCoproduct.lean]:
```suggestion
noncomputable def IsInitial.ofBinaryCoproductDisjoint [HasBinaryCoproduct X Y]
```

File: Mathlib/CategoryTheory/Limits/Shapes/DisjointCoproduct.lean [hunk 7]
```diff
@@ -22,116 +23,223 @@ Shows that a category with disjoint coproducts is `InitialMonoClass`.
...
+noncomputable def IsInitial.ofBinaryCoproductDisjointOfIsColimit {Z : C}
+    {f : X ⟶ Z} {g : Y ⟶ Z} [HasPullback f g] (hc : IsColimit (BinaryCofan.mk f g)) :
+    IsInitial (pullback f g) :=
+  ofBinaryCoproductDisjointOfIsColimitOfIsLimit hc (pullback.isLimit f g)
+
+/-- If `i ≠ j` and `Xᵢ ← Y → Xⱼ` is a pullback diagram over `∐ X`, `Y` is initial. -/
+noncomputable def IsInitial.ofBinaryCoproductDisjointOfIsLimit
+    [HasBinaryCoproduct X Y] (s : PullbackCone (coprod.inl : X ⟶ X ⨿ Y) coprod.inr)
+    (hs : IsLimit s) : IsInitial s.pt :=
+  ofBinaryCoproductDisjointOfIsColimitOfIsLimit (colimit.isColimit _) hs
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Limits/Shapes/DisjointCoproduct.lean]: The docstring of these two seems incorrect.

**Review by robin-carlier — COMMENTED** [review]
Minor docstring issues that I missed the first time, but otherwise looks good.
As it’s purely stylistic, feel free to ignore the suggestion about namespace if you prefer the current way.

File: Mathlib/CategoryTheory/Limits/Shapes/DisjointCoproduct.lean [hunk 8]
```diff
@@ -22,116 +23,223 @@ Shows that a category with disjoint coproducts is `InitialMonoClass`.
...
-
-namespace Limits
+namespace CategoryTheory.Limits
 
 open Category
 
-variable {C : Type u} [Category.{v} C]
-
-/-- Given any pullback diagram of the form
+variable {C : Type*} [Category C]
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Limits/Shapes/DisjointCoproduct.lean]: I think it is better to keep `{C: Type u} [Category.{v} C]`. See [#mathlib4 > &#96;grind ext&#96; and universe-level metavariable](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/.60grind.20ext.60.20and.20universe-level.20metavariable)

File: Mathlib/CategoryTheory/Limits/Shapes/DisjointCoproduct.lean (hunk 5 above)
Comment (chrisflav) [reply Mathlib/CategoryTheory/Limits/Shapes/DisjointCoproduct.lean]: Probably fine to take out the `(hij : i ≠ j)` here.

**Review by robin-carlier — APPROVED** [review]
Thanks!

maintainer merge

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
